US06852742B2
2-Ethoxy-3,5-dinitro-6-pentadecyl benzaldehyde (3.73 g, 8.3 mmol) and ethyl acetoacetate (1.08 g, 8.3 mmol) were dissolved in n-butanol (20 mL). Acetic acid (0.5 g, 8.3 mmol) and piperidine (0.7 g, 8.3 mmol) were added and stirred at room temperature for 3-4 hrs. Ethyl-3-amino crotonate (1.08 g, 8.3 mmol) was then added and refluxed for 10 hrs. n-Butanol was evaporated and reaction mixture was washed with distilled water and extracted with dichloromethane (10 mL). Organic layer was dried over sodium sulfate, evaporated and compound was purified by column chromatography using silicagel (100-200 mesh) with hexane:EtOAc (94:6) solvent system to give diethyl 1,4-dihydro-4-(2′-ethoxy-3′,5′-dinitro-6′-pentadecylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate.

reactant | 2-Ethoxy-3,5-dinitro-6-pentadecyl benzaldehyde | 8.3 mmol, 3.73 g | C(C)OC1=C(C=O)C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CCCCCCCCCCCCCCC | C24H38N2O6
reactant | ethyl acetoacetate | 8.3 mmol, 1.08 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Acetic acid | 8.3 mmol, 0.5 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 8.3 mmol, 0.7 g | N1CCCCC1 | C5H11N
reactant | Ethyl-3-amino crotonate | 8.3 mmol, 1.08 g | CCOC(=O)/C=C(/C)\N | C6H11NO2
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | diethyl 1,4-dihydro-4-(2′-ethoxy-3′,5′-dinitro-6′-pentadecylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate | C(C)OC1=C(C(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CCCCCCCCCCCCCCC)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC | C36H55N3O9
